US06747044B2
6.4 g of the oil of 4-[(2-hydroxy-ethyl)-(3-hydroxy-propyl)-amino]-piperidine prepared in b) are taken up in 300 ml of acetone, combined with 13.8 g of N-[2-(3.5-bis-trifluoromethyl-phenyl)-ethyl]-2-methanesulphonyloxy-N-methyl-2-phenyl-acetamide and 33 ml of triethylamine and refluxed for 6 hours. The mixture is cooled, the solvent is eliminated in vacuo, the residue is stirred in 10% sodium hydrogen carbonate solution and extracted with ethyl acetate. The combined organic phases are dried over sodium sulphate, the solvent is eliminated in vacuo and the residue is chromatographed with ethyl acetate/methanol/conc. ammonia solution 20:80:1 over silica gel. The fractions found to be uniform by TLC are combined and freed from the solvents in vacuo. 8.4 g of N-[2-(3,5-bis-trifluoromethyl-phenyl)-ethyl]-2-{4-[(2-hydroxy-ethyl)-(3-hydroxy-propyl)-amino]-piperidin-1-yl}-N-methyl-2-phenyl-acetamide are obtained as a yellowish-brown oil; [α]D20=+29.6°.

reactant | 4-[(2-hydroxy-ethyl)-(3-hydroxy-propyl)-amino]-piperidine | OCCN(C1CCNCC1)CCCO | C10H22N2O2
reactant | N-[2-(3.5-bis-trifluoromethyl-phenyl)-ethyl]-2-methanesulphonyloxy-N-methyl-2-phenyl-acetamide | 13.8 g | FC(C=1C=C(C=C(C1)C(F)(F)F)CCN(C(C(C1=CC=CC=C1)OS(=O)(=O)C)=O)C)(F)F | C20H19F6NO4S
reactant | triethylamine | 33 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | 300 ml | CC(=O)C | C3H6O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-[2-(3,5-bis-trifluoromethyl-phenyl)-ethyl]-2-{4-[(2-hydroxy-ethyl)-(3-hydroxy-propyl)-amino]-piperidin-1-yl}-N-methyl-2-phenyl-acetamide | 8.4 g | FC(C=1C=C(C=C(C1)C(F)(F)F)CCN(C(C(C1=CC=CC=C1)N1CCC(CC1)N(CCCO)CCO)=O)C)(F)F | C29H37F6N3O3
